US06514964B1
Di-tert-butyl dicarbonate (1.1 eq) was added to a solution of 3-(((2-bromo-5-fluorophenyl)methyl)amino) propan-1-ol (1 eq) in methylene chloride (0.50M) at RT and the resulting mixture stirred under nitrogen 5 h. Concentration in vacuo and purification by flash chromatography on silica gel (20-30% ethyl acetate/hexane) gave N-(tert-butoxycarbonyl)-N-((2-bromo-5-fluorophenyl)methyl)-N-(3-hydroxypropyl)amine as a clear oil. EI-MS m/z 362, 364 (M+H)+

reactant | Di-tert-butyl dicarbonate | 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(((2-bromo-5-fluorophenyl)methyl)amino) propan-1-ol | 1 eq | BrC1=C(C=C(C=C1)F)CNCCCO | C10H13BrFNO
solvent | methylene chloride | 0.50M | C(Cl)Cl | CH2Cl2
product | N-(tert-butoxycarbonyl)-N-((2-bromo-5-fluorophenyl)methyl)-N-(3-hydroxypropyl)amine | C(C)(C)(C)OC(=O)N(CCCO)CC1=C(C=CC(=C1)F)Br | C15H21BrFNO3
